US05618801
2-Amino-5-bromobenzonitrile (3.94 g, 20 millimoles), triethylamine (2.22 g, 22 millimoles) and 4-dimethylamino- pyridine (0.49 g, 4 millimoles) were dissolved in 40 ml of dry dichloromethane, to which was slowly added dropwise a solution of 4-diethoxyphosphinoylmethylbenzoyl chloride (5.81 g, 20 millimoles) in 40 ml dry dichloromethane while cooling the system with ice and stirring it. After stirring the resulting mixture at ambient temperature for 10 hours, the reaction mixture was mixed with 50 ml of water and extracted with chloroform. The chloroform layer was dried on anhydrous sodium sulfate and the solvent was removed by evaporation under reduced pressure. Purification of the residue by a silica gel column chromato-graphy using 1:2 mixture of chloroform and ethyl acetate as an eluent, followed by recrystallization from benzene-n-hexane mixture, gave 2.94 g of 4-diethoxyphosphinoylmethyl-N-(4-bromo-2-cyanophenyl)benzamide as a colorless crystalline product melting at 165°-166° C. (after recrystallization from benzene-n-hexane).

reactant | 2-Amino-5-bromobenzonitrile | 20 millimoles, 3.94 g | NC1=C(C#N)C=C(C=C1)Br | C7H5BrN2
reactant | triethylamine | 22 millimoles, 2.22 g | C(C)N(CC)CC | C6H15N
reactant | 4-diethoxyphosphinoylmethylbenzoyl chloride | 20 millimoles, 5.81 g | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)Cl)C=C1 | C12H16ClO4P
reactant | water | 50 ml | O | H2O
catalyst | 4-dimethylamino- pyridine | 4 millimoles, 0.49 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-diethoxyphosphinoylmethyl-N-(4-bromo-2-cyanophenyl)benzamide | 2.94 g | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)NC2=C(C=C(C=C2)Br)C#N)C=C1 | C19H20BrN2O4P
